US08278302B2
2-Chloro-4-[1-(tetrahydro-pyran-2-yl)-1H-pyrazol-4-yl]-pyridine
4-Bromo-1-(tetrahydro-pyran-2-yl)-1H-pyrazole (0.73 g) and 2-chloropyridine-4-boronic acid (0.20 g) were dissolved in dry DMF (2 mL) under inert atmosphere and 1,1′-bis(diphenylphosphino)ferrocenedichloro palladium(II)(102 mg) was added followed by caesium carbonate (0.84 g). The mixture was heated to 80° C. and stirred for 2 h. After cooling to room temperature the reaction mixture was diluted with DCM and the inorganic salts filtered off. The filtrate was washed with water and brine, dried under Na2SO4, filtered and the solvent was evaporated under reduced pressure. The crude was purified by flash chromatography (20 g Isolute® silica gel cartridge; gradient elution: hexane/EtOAc from 10/0 to 8.5/1.5) affording the title compound (144 mg). HPLC (Rt)=1.39 min (method M)

reactant | 4-Bromo-1-(tetrahydro-pyran-2-yl)-1H-pyrazole | 0.73 g | BrC=1C=NN(C1)C1OCCCC1 | C8H11BrN2O
reactant | 2-chloropyridine-4-boronic acid | 0.20 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
reactant | caesium carbonate | 0.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloro palladium(II) | 102 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Chloro-4-[1-(tetrahydro-pyran-2-yl)-1H-pyrazol-4-yl]-pyridine | 144 mg | ClC1=NC=CC(=C1)C=1C=NN(C1)C1OCCCC1 | C13H14ClN3O
